data/oMe_Silver.jsonl
{"reaction_id": "NR-044_1-C(=O)OCC_2-C=CC_3-c1ccccc1_4-C#CC_5-CCC_6-C1CCCCC1","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C(=O)OCC)(C=CC)C(c1ccccc1)(C#CC)[N+](CCC)(C1CCCCC1)[O-]"],"products_smiles": ["C(C(=O)OCC)(C=CC)=C(c1ccccc1)(C#CC)","O[N](CCC)(C1CCCCC1)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(=O)OCC)(C=CC)=C(c1ccccc1)(C#CC).O[N](CCC)(C1CCCCC1)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
